US06521643B1
To a stirred suspension of 2-cyano-4-methylpyridine (1.0 g) in tetrahydrofuran (10 ml) was added a solution of ethylmagnesium bromide in tetrahydrofuran (0.96M, 9.7 ml) dropwise at −55° C. The reaction mixture was stirred at −55° C. for 30 minutes and warmed to 0° C. Then the mixture was poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate twice. The combined organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give 1-(4-methylpyridin-2-yl)-propan-1-one (1.21 g).

reactant | 2-cyano-4-methylpyridine | 1.0 g | C(#N)C1=NC=CC(=C1)C | C7H6N2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.96M, 9.7 ml | O1CCCC1 | C4H8O
product | 1-(4-methylpyridin-2-yl)-propan-1-one | 1.21 g | CC1=CC(=NC=C1)C(CC)=O | C9H11NO
